US06734303B2
Alternative Route to N-(2-amidino-1,2,3,4-tetrahydro-5-isoquinolyl)methanesulfonamide
A suspension of N-(1,2,3,4-tetrahydro-5-isoquinolyl)methanesulfonamide hydrochloride obtainable by the method of Example 19(b) of WO 98/30560 (15 g, 69 mmol), 1H-pyrazole-1-carboxamidine hydrochloride (10.0 g, 0.57 mol) and diisopropylethylamine (16.2 g, 125 mmol) in DMF (119 ml) was stirred overnight at room temperature. After this time 2N aqueous sodium hydroxide-was added to adjust to pH 12. The resulting white suspension was stirred for three hours, filtered and the solid dried in vacuo overnight at 45° C. to give 14.5 g of the title product (95%).

reactant | N-(1,2,3,4-tetrahydro-5-isoquinolyl)methanesulfonamide hydrochloride | Cl.C1NCCC2=C(C=CC=C12)NS(=O)(=O)C
reactant | 1H-pyrazole-1-carboxamidine hydrochloride | 0.57 mol, 10.0 g | Cl.N1(N=CC=C1)C(=N)N
reactant | diisopropylethylamine | 125 mmol, 16.2 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | DMF | 119 ml | CN(C)C=O | C3H7NO
product | N-(2-amidino-1,2,3,4-tetrahydro-5-isoquinolyl)methanesulfonamide | 14.5 g, 95% | C(N)(=N)N1CC2=CC=CC(=C2CC1)NS(=O)(=O)C | C11H16N4O2S
